US07064123B1
To a stirred mixture 4-cyclopentyl-4-oxo-2-benzylsulfonylmethyl-butyric acid (169.5 mg, 0.5 mmol), 2-amino-1-(5-ethyl-1,3,4-oxadiazole-2-yl)-1-pentanol HCl salt (117.5 mg), and HOBt (91.8 mg, 0.6 mmol) in MeCl2 5 ml), was added EDC (144 mg, 0.75 mmol) and N-methylmorpholine (0.3 ml) at room temperature. After stirring for 14 hours, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated NaHCO3, brine, dried with MgSO4 and concentrated to yield 240 mg of crude product. The crude product was treated with Dess-Martin periodinane (343 mg, 0.693 mmol) at room temperature in 5 mls of MeCl2. After stirring for 1 hour, 5 mls of saturated Na2S2O3—NaHCO3 were added. After a further 0.5 hours, the reaction mixture was extracted with ethyl acetate, washed with brine, dried with MgSO4 and concentrated. The residue was purified with silica gel column chromatography to yield 145 mg of N-[1-(5-Ethyl-[1,3,4]oxadiazole-2-carbonyl)-butyl]-4-oxo-2-benzylsulfonyl-methyl-4-pyrrolidin-1-yl-butyramide; H1NMR(DMSO-d): 8.85 (½H, d, NH, diastereomeric), 8.78 (½H, d, NH, diastereomeric), 7.5–7.3(5H, m), 5.1–4.95(1H, m), 4.5–4.3 (2H, m), 3.5–3.2 (8H, m), 3.2–3(1H, m), 2.82(2H, m), 2–1.8(6H, m), 1.6–1.3(2H, m), 1.24(3H, m), 0.9–0.8(3H, m); MS: 518.2(M−1), 519.7 (M+1).

reactant | 4-cyclopentyl-4-oxo-2-benzylsulfonylmethyl-butyric acid | 0.5 mmol, 169.5 mg | C1(CCCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C17H22O5S
reactant | 2-amino-1-(5-ethyl-1,3,4-oxadiazole-2-yl)-1-pentanol HCl salt | 117.5 mg | Cl.NC(C(O)C=1OC(=NN1)CC)CCC
reactant | HOBt | 0.6 mmol, 91.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.75 mmol, 144 mg
reactant | N-methylmorpholine | 0.3 ml | CN1CCOCC1 | C5H11NO
reactant | Dess-Martin periodinane | 0.693 mmol, 343 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 NaHCO3 | 5 mls | [O-]S(=O)(=S)[O-].[Na+].[Na+].C(=O)(O)[O-].[Na+]
solvent | MeCl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeCl2 | 5 mls | C(Cl)Cl | CH2Cl2
product | N-[1-(5-Ethyl-[1,3,4]oxadiazole-2-carbonyl)-butyl]-4-oxo-2-benzylsulfonyl-methyl-4-pyrrolidin-1-yl-butyramide | 145 mg | C(C)C1=NN=C(O1)C(=O)C(CCC)NC(C(CC(N1CCCC1)=O)(S(=O)(=O)CC1=CC=CC=C1)C)=O | C25H34N4O6S
